US07402585B2
4-(2-hydroxyethyl)piperidine (1.94 g, 15 mmol) in dimethylformamide (20 ml) was reacted with 2-(2-bromoethoxy)-2-methylpropane (3.13 g, 17.3 mmol) at 50° C. for 15 hours. The mixture was cooled and the solid removed by filtration. The solid was washed with ethyl acetate and the organics were washed with water, dried (magnesium sulphate) and concentrated to give 2-(1-(2-tert-butoxy ethyl)piperidin-4-yl)ethanol as a yellow oil (2.35 g, 100% yield):

reactant | 4-(2-hydroxyethyl)piperidine | 15 mmol, 1.94 g | OCCC1CCNCC1 | C7H15NO
reactant | 2-(2-bromoethoxy)-2-methylpropane | 17.3 mmol, 3.13 g | BrCCOC(C)(C)C | C6H13BrO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(1-(2-tert-butoxy ethyl)piperidin-4-yl)ethanol | 2.35 g, 100% yield | C(C)(C)(C)OCCN1CCC(CC1)CCO | C13H27NO2
